US04180583
4'-Bromo-4-[4-(diphenylmethylene)piperidino]butyrophenone hydrochloride
A mixture of 20 g (0.038 mole) of 4'-bromo-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride, 500 ml of 37% HCl and 250 ml of n-butanol was refluxed for 3 hours after which the solvent and excess acid were removed under vacuum. The remaining residue was recrystallized from isopropyl alcohol to give the desired product, M.P. 228°-230° C.

reactant | 4'-bromo-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride | 0.038 mole, 20 g | Cl.BrC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O
reactant | HCl | 500 ml | Cl | ClH
solvent | n-butanol | 250 ml | C(CCC)O | C4H10O
product | 4'-Bromo-4-[4-(diphenylmethylene)piperidino]butyrophenone hydrochloride | Cl.BrC1=CC=C(C=C1)C(CCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C28H28BrNO.ClH/c29-26-15-13-22(14-16-26)27(31)12-7-19-30-20-17-25(18-21-30)28(23-8-3-1-4-9-23)24-10-5-2-6-11-24;/h1-6,8-11,13-16H,7,12,17-21H2;1H
